US08022206B2
1-(2,4-Dichloro-6-fluorophenyl)ethanol
A solution of n-BuLi (4.8 mL, 12 mmol, 2.5 M solution in hexane) was added to THF (50 mL) at −78° C. under nitrogen, followed by the addition of 1.0 M KOtBu in THF (12 mL, 12 mmol). The mixture was stirred at −78° C. for 30 min, then 3,5-dichlorofluorobenzene (1.65 g, 10.0 mmol) in THF (5 mL) was added slowly, and the resulting mixture was stirred at this temperature for 30 min. Then a solution of acetaldehyde (0.88 g, 20 mmol) in THF (5 mL) was added. The mixture was slowly warmed to rt. The mixture was quenched with water (10 mL), and diluted with EtOAc (50 mL). The organic phase was separated, washed with brine (10 mL), and dried over anhydrous sodium sulfate. The crude material was purified by silica gel chromatography (Hex:EtOAc=95:5→90:10) to give the title compound as a colorless oil. 1H NMR (CDCl3): δ=1.62 (d, J=6.8 Hz, 3H), 2.30 (br s, 1H, —OH), 5.35 (q, J=6.8 Hz, 1H), 7.05 (dd, J=10.6, 2.0 Hz, 1H), 7.20 (m, 1H).

reactant | n-BuLi | 12 mmol, 2.5 M, 4.8 mL | [Li]CCCC
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
reactant | 3,5-dichlorofluorobenzene | 10.0 mmol, 1.65 g | ClC=1C=C(C=C(C1)Cl)F | C6H3Cl2F
reactant | acetaldehyde | 20 mmol, 0.88 g | C(C)=O | C2H4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mmol, 12 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(2,4-Dichloro-6-fluorophenyl)ethanol | ClC1=C(C(=CC(=C1)Cl)F)C(C)O | C8H7Cl2FO
